US07705005B2
Ethyl 2-methyl-2-(4-oxo-1-piperidinyl)propanoate
A mixture of ethyl 2-bromo-2-methylpropanoate (48.3 ml, 5 equiv), 4-piperidone hydrochloride monohydrate (100 g, 1 equiv), acetonitrile (1216 ml) and potassium carbonate (353 g, 4 equiv) was heated at reflux under nitrogen with mechanical stirring for 20 h then cooled in an ice bath before adding diethyl ether (approx. 1400 ml). The mixture was filtered through celite, evaporated in vacuo, then excess bromoester distilled off (50° C. still head temperature/10 Torr). Flash chromatography (silica, 5-30% ethyl acetate in hexane) and evaporation of the product fractions gave the crude product as a yellow oil. To remove some remaining bromoester contaminant this was partitioned between ethyl acetate and 2M aqueous hydrochloric acid. The organic layer was discarded and the aqueous layer was basified with sodium carbonate, saturated with sodium chloride and extracted with ethyl acetate. Drying and evaporation of the organic extracts gave the desired product as a yellow oil (54.7 g).

reactant | ethyl 2-bromo-2-methylpropanoate | 48.3 ml, 5 equiv | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | 4-piperidone hydrochloride monohydrate | 100 g, 1 equiv | O.Cl.N1CCC(CC1)=O
reactant | acetonitrile | 1216 ml | C(C)#N | C2H3N
reactant | potassium carbonate | 353 g, 4 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | approx. 1400 ml | C(C)OCC | C4H10O
product | Ethyl 2-methyl-2-(4-oxo-1-piperidinyl)propanoate | 54.7 g | CC(C(=O)OCC)(C)N1CCC(CC1)=O | C11H19NO3
